US08633189B2
To 4-bromo-2-methyl-5-nitrophenyl methyl carbonate (500 mg, 1.72 mmol), Pd(PPh3)2Cl2 (30 mg, 0.04 mmol), and CuI (3 mg, 0.02 mmol) were added DMF (5.0 mL), triethylamine (5.0 mL), and N,N-dimethylprop-2-yn-1-amine (717 mg, 919 μL, 8.62 mmol) under nitrogen atmosphere. The reaction mixture was heated under microwave irradiation at 100° C. for 15 min, resulting in product formation with partial loss of the carbonate group. The reaction was quenched with water and the aqueous layer was extracted with ethyl acetate, washed with 50% saturated NaHCO3 (2×20 mL), water, and brine. The solution was dried over Na2SO4, filtered, and dried down to a red oil. The oil was dissolved in cold (0° C.) dichloromethane (4 mL) and triethylamine (132 μL, 1.71 mmol) then treated dropwise with methyl chloroformate (132 μL, 1.71 mmol). After 5 min the reaction was quenched with water and the aqueous layer extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and concentrated. Purification by silica gel chromatography (0-60% ethyl acetate/hexanes) provided 4-(3-(dimethylamino)prop-1-ynyl)-2-methyl-5-nitrophenyl methyl carbonate (100 mg, 20% yield). LC/MS m/z 293.3 [M+H]+.

reactant | 4-bromo-2-methyl-5-nitrophenyl methyl carbonate | 1.72 mmol, 500 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C)(OC)=O | C9H8BrNO5
reactant | N,N-dimethylprop-2-yn-1-amine | 8.62 mmol, 919 μL, 717 mg | CN(CC#C)C | C5H9N
reactant | methyl chloroformate | 1.71 mmol, 132 μL | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 0.04 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.02 mmol, 3 mg | [Cu]I
solvent | triethylamine | 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.71 mmol, 132 μL | C(C)N(CC)CC | C6H15N
product | 4-(3-(dimethylamino)prop-1-ynyl)-2-methyl-5-nitrophenyl methyl carbonate | 100 mg, 20% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])C#CCN(C)C)C)(OC)=O | C14H16N2O5
